US06156902
Preparation of 2,4-bis(4-amino-3-hydroxyphenoxy)-3,5,6-trifluoropyridine
99 g of 2,4-bis(4-nitro-3-benzyloxyphenoxy)-3,5,6-trifluoropyridine prepared as described in Example 5 (0.16 mol) are dissolved in 600 ml of a mixture of tetrahydrofuran and ethyl acetate (volume ratio 1:1), and 10 g of Pd/C (palladium/carbon) are added to the solution. The mixture is then hydrogenated at room temperature in an autoclave with vigorous stirring using hydrogen at a pressure of 1 bar; after 3 days, the reaction is terminated. The yellow-beige solution is evaporated to half in a rotary evaporator and left to stand overnight at room temperature, during which the reaction product precipitates in crystalline form. The reaction product is then collected and dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet (yield: 93%).

reactant | 2,4-bis(4-nitro-3-benzyloxyphenoxy)-3,5,6-trifluoropyridine | 99 g | [N+](=O)([O-])C1=C(C=C(OC2=NC(=C(C(=C2F)OC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)F)F)C=C1)OCC1=CC=CC=C1 | C31H20F3N3O8
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 10 g | [Pd] | Pd
product | 2,4-bis(4-amino-3-hydroxyphenoxy)-3,5,6-trifluoropyridine | yield: 93% | NC1=C(C=C(OC2=NC(=C(C(=C2F)OC2=CC(=C(C=C2)N)O)F)F)C=C1)O | C17H12F3N3O4
